US04631151
A solution of 16.52 g (0.02 mol) of bis(pentadecafluorooctanoyl)peroxide in 100 ml of 1,1,2-trichlorotrifluoroethane was placed in a flask and then 7.81 g (0.10 mol) of benzene was added. After this addition, the reactants were maintained at 40° C. as swept with a current of nitrogen gas and thus left reacting for three hours. Analysis of the reaction product by gas chromatography revealed that the reaction produced pentadecafluoroheptylbenzene in a yield of 98%. The reaction also by-produced pentadecafluorocaprylic acid in a yield of 99%.

reactant | bis(pentadecafluorooctanoyl)peroxide | 0.02 mol, 16.52 g | FC(C(C(C(C(C(C(=O)OOC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=O)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C16F30O4
reactant | benzene | 0.10 mol, 7.81 g | C1=CC=CC=C1 | C6H6
solvent | 1,1,2-trichlorotrifluoroethane | 100 ml | ClC(C(Cl)(F)F)(Cl)F | C2Cl3F3
product | pentadecafluoroheptylbenzene | yield of 98% | FC(C(C(C(C(C(F)(F)C1=CC=CC=C1)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C13H5F15
